US05212187
N-cyano-N'-[4-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine
Preparation is effected analogously to Example 1, using 0.7 g (2.3 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,4-butanediamine and 0.89 g (2.3 mmol) of N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int.[%])=596 ([M+H]+ 7), 196 (100).

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,4-butanediamine | 2.3 mmol, 0.7 g | CN(CCCCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C19H27N3
reactant | N-cyano-O-phenyl-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]isourea | 2.3 mmol, 0.89 g | C(#N)NC(OC1=CC=CC=C1)=NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H28N4O2
product | N-cyano-N'-[4-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]butyl]-N"-[3-[3-(piperidinomethyl)phenoxy]propyl]guanidine | C(#N)NC(=NCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCCCN(C)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C36H49N7O
